Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
Redness/pain of right hand
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr ___ is a ___ year old male with no PMH presenting with R 
hand pain/redness/swelling going up towards armpit since last 
night. He works for ___, was stocking and brushed R 
hand against metal grate ___ days ago. Yesterday night noticed 
pain in R forearm, this morning at 4:30am noticed skin red from 
forearm in linear path towards R armpit. No fevers/chills, 
N/V/D, difficulty tolerating po, numbness/tingling, pain with 
joint movement.

In the ED, initial vs were 99.4 76 153/74 20 99% ra. Received 
hand consult that reported the patient did not need surgical 
intervention. Requested IV vanco and IV unasyn, obs in ED and 
discharge home on bactrim/cefodroxil x 10 day course. He 
revieved IV vanco 1 gram x1 (Q12 hours) and ceftriaxone 1gram IV 
x1. On Reeval the patient's hand was not improving and he was 
admitted to further IV antibiotics. 

Transfer VS 98.5 66 144/94 18 99%.

On arrival to the floor, patient reports that he feels well and 
that he no longer has pain in elbow and that his hand is feeling 
much better than it was the day prior. He continues to deny 
fever/chills, N/V, neck pain, headache, or any other symtpoms. 

 
Past Medical History:
Drainage of para-tonsilar abscess at Mass Eye and Ear in ___
 
Social History:
___
Family History:
HTN in Father
DM2 in Maternal Aunt
 
Physical ___:
ADMISSION PHYSICAL EXAM:
VS: T:99.1, BP: 110/76 HR: 75, RR: 18, Sat:98% on RA
GEN: Alert, oriented, no acute distress, laying in bed
HEENT: NCAT, MMM, EOMI, sclera anicteric, OP clear
NECK: Supple, no JVD, no LAD
PULM: Good aeration, CTAB no w/r/rh
CV: RRR, normal S1/S2, no m/r/g
ABD: +BS, soft, NT/ND, no r/g 
EXT: Right hand wrapped in ace wrap. Linear erythamous streaking 
over the anterior arm extending up to the level of the axillia. 
Full ROM of the elbow without pain, no swelling overlaing the 
elbow. ___ ROM of the right shoulder. Mild tender shotty LAD in 
the right axilla. Full ROM in digits with extention and flexion.
NEURO: CNs2-12 intact, motor function grossly normal
SKIN: See ext aboe. No other ulcers or lesions

DISCHARGE EXAM:
VS: T:99.0, BP: 126/68 HR: 57, RR: 18, Sat:97% on RA
GEN: Alert, oriented, no acute distress, sitting up in bed
HEENT: NCAT, MMM, EOMI, sclera anicteric, OP clear
NECK: Supple, no JVD, no LAD
PULM: Good aeration, CTAB no w/r/rh
CV: RRR, normal S1/S2, no m/r/g
ABD: +BS, soft, NT/ND, no r/g 
EXT: Right hand wrapped in ace wrap. On takeing down wrapping, 
decreased linear streaking and swelling. Full ROM of the elbow 
without pain, no swelling overlaing the elbow. ___ ROM of the 
right shoulder. Full ROM in digits with extention and flexion.
NEURO: CNs2-12 intact, motor function grossly normal
SKIN: See ext above. No other ulcers or lesions
 
Pertinent Results:
ADMISSION:

___ 01:30PM BLOOD WBC-9.5 RBC-5.12 Hgb-14.5 Hct-43.3 MCV-85 
MCH-28.4 MCHC-33.5 RDW-12.9 Plt ___
___ 01:30PM BLOOD Plt ___
___ 01:30PM BLOOD Glucose-96 UreaN-20 Creat-0.8 Na-140 
K-3.9 Cl-106 HCO3-24 AnGap-14
___ 01:41PM BLOOD Lactate-0.8

IMAGING:
Splint/bandage overlies the right hand, obscuring fine bony 
detail and making detection for radiographic evidence of acute 
osteomyelitis quite suboptimal. If high clinical concern for 
such, consider removal and repeat radiographs over more advanced 
imaging with MRI or nuclear medicine bone scan.  No definite 
acute fracture is seen.

DISCHARGE LABS:

___ 06:50AM BLOOD WBC-8.7 RBC-5.72 Hgb-16.2 Hct-48.9 MCV-86 
MCH-28.3 MCHC-33.1 RDW-12.5 Plt ___
___ 06:50AM BLOOD Glucose-114* UreaN-15 Creat-0.9 Na-138 
K-4.1 Cl-103 HCO3-23 AnGap-16
___ 06:50AM BLOOD Calcium-10.0 Phos-3.2 Mg-1.9
 
Brief Hospital Course:
Mr ___ is a ___ year old male with no significant PMHx who 
presents with 1 day of worsening redness and swelling of his 
right index finger. Concer for cellulitis and lymphadenitis.

#Cellulitis/Lymphadenitis:
Recieved 3 doses of IV vanco in ED and 1 gram of ceftriaxone 
with improvement in his symptoms. He has improved on his current 
regimen of vancomycin and ceftriaxone. He has full ROM of his 
joints and was seen by plastics who do not feel that surgical 
intervention is required. On the floor he was placed on 
Vancomycin 1250mg IV Q12hours and Ceftriaxone 1 gram IV Q24 
hours. There was no growth from the blood cultures and he 
continued to improve. Following 48 hours of IV antibiotics it 
was felt that he had improved enough to transition to PO 
medications. He was placed on PO Bactrim DS 2 Tabs BID x10 days 
and Cefadroxil 1000mg PO BID x10 days. He was discharged home 
with close follow up. 

Transitional Issues:
He will be seen 2 days after discharge as an outpatient to make 
sure that he is improving on PO antibiotics. 
The patient also does not have a PCP at time of admission. He 
was scheduled with a PCP at time of discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. Acetaminophen ___ mg PO Q6H:PRN pain 
2. Sulfameth/Trimethoprim DS 2 TAB PO BID Duration: 10 Days 
RX *sulfamethoxazole-trimethoprim [Bactrim DS] 800 mg-160 mg 2 
tablet(s) by mouth twice a day Disp #*40 Tablet Refills:*0
3. cefaDROXil *NF* 1000 mg Oral BID Duration: 10 Days 
RX *cefadroxil 500 mg 2 capsule(s) by mouth twice a day Disp 
#*40 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right hand cellulitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr ___,

It was a pleasure taking care of you while you were in the 
hospital. You were admitted for IV antibiotics for your 
infection in your right hand. You did well with the antibiotics 
and were transitioned to oral antibiotics and able to be 
discharged home. Please follow up will all of your appointments. 
Please complete your antibiotic course even if you start to feel 
better before it's completed. Please seek medical attention if 
you have fever/chills, worsening of the hand pain or swelling. 

Please keep your hand elevated to help with the swelling. You do 
not have to continue to wear the splint, but if it helps make 
the hand feel better then you can continue to wear it. 
 
Followup Instructions:
___